2108-06-14 06:40:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   ERCP performed yesterday; received 4 units FFP prior to procedure to
   correct for anticoagulation.
   R Femoral line placed [**2108-6-13**]
   Started CVVH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-14**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 75 (74 - 111) bpm
   BP: 142/55(75) {68/30(30) - 148/87(92)} mmHg
   RR: 16 (8 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,175 mL
                                                                  1,166 mL
   PO:
             TF:
   IVF:
                                                                  2,043 mL
                                                                  1,166 mL
   Blood products:
                                                                  1,132 mL
   Total out:
                                                                      0 mL
                                                                    793 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,175 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 11 L/min
   Physical Examination
   Gen: NAD, sedated
   CV: RRR, no M/R/G
   Lungs: on vent, CTA B, no wheezing, rhonchi, crackles heard anteriorly
   Abd: obese, +bs, ntnd
   Ext: warm, dry, 1+ distal pulses
   Femoral line site oozing blood
   Labs / Radiology
   188 K/uL
   10.7 g/dL
   69 mg/dL
   7.5 mg/dL
   17 mEq/L
   5.2 mEq/L
   96 mg/dL
   97 mEq/L
   136 mEq/L
   33.4 %
   31.1 K/uL
        [image002.jpg]
                             [**2108-6-13**]  10:53 PM
                             [**2108-6-13**]  11:12 PM
                             [**2108-6-14**]  05:00 AM
   WBC
   31.1
   Hct
   34
   33.4
   Plt
   188
   Cr
   8.6
   7.5
   Glucose
   65
   69
   Other labs: Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   [**2108-6-13**] Lactate 5.4
   [**2108-6-14**] INR: 3.3
   [**2108-6-14**] vanco 7.8
   [**2108-6-13**] Blood cx: GNR, GPC pairs and chains
   Assessment and Plan
   48 yo male with Down Syndrome and history of ESRD on HD, SVC on
   coumadin and recent history of choledocholithiasis who presents with
   sepsis secondary to cholangitis.
   #Sepsis: etiology bacterial cholangitis.  Pt blood pressure stable on
   low dose levophed pressor (0.2) will continue to wean.
   -Will d/c femoral line when bp stable off of pressors.
   -Limit fluid boluses due to ESRD.
   # Respiratory failure: elective intubation prior to procedure.  Pt
   doing will on volume control.  Pt currently too sedated to be weaned to
   pressure support.   Will lighten sedation and repeat trial of PSV.
   - Obtain CXR to verify placement of ET tube.
   -Current sedation fentanyl/versed gtt
   #Bacteremia: likely secondary to cholangitis;
   -GNR and GPR on culture;
   -continue zosyn and vanco; will consider extending spectrum for double
   coverage of pseudomonas while awaiting sensitivities.  - -Cultures
   likely drawn from HD catheter.  Will notify renal and determine if
   catheter needs immediate replacement.
   -Order Echo today to look for vegetations.
   #Cholangitis: Definitive treatment with ERCP yesterday. Pus drained and
   stent removed.  New stent put in place.  Stone was not removed.
   -          Continue to monitor LFTs and serial abdominal exam.  If LFT
   elevation persists will notify ERCP team for repeat intervention.
   Otherwise repeat ERCP scheduled for 1 month.
   -          Continue PPI IV BID
   # ESRD: will continue on CVVH until pt is off pressors and pt is
   extubated; will likely resume regularly scheduled HD; continue to
   renally dose medications, discuss need for new catheter.
   #SVC syndrome: hold on restarting anticoagulation until INR in
   therapeutic range and until it is less likely that he will need a
   repeat procedure.
   # Access: HD port, R femoral line (to be removed when no longer need
   pressors), R forearm IV
   #Code: reverse to DNR/DNI after extubation
   #Dispo: will go to floor after extubation and termination of CVVH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-6-13**] 04:23 PM
   Dialysis Catheter - [**2108-6-13**] 04:24 PM
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-15 07:02:00 Physician Resident Progress Note
Chief Complaint: septic shock
   48 yo male with Down Syndrome and history of ESRD on HD, SVC on
   coumadin and recent history of choledocholithiasis who presents with
   sepsis secondary to cholangitis
   24 Hour Events:
   --> Worsening septic physiology with hypotension, maxed out on
   levofed.  Some Aflutter vs. AVNRT on high dose levophed.   Add
   vasopressin & able to [**Month (only) 38**] levofed dosing.
 EKG - Episodes of (AV nodal re-entrant tach? on levofed --had to give
   adenosine x4 and start dilt drip)
 ABGs this morning -
   pH 7.31 pCO2 42 pO2 56 HCO3 22 BaseXS -4
   up on FIO2, increased PSV 10->16 and PEEP 5->8
   Repeat ABG
   pH7.31 pCO2 48 pO2 106 HCO3 25 BaseXS -2  & lactate 2.7 (yesterday 2.1)
   Increased RR
 Switched to A/C.
 BLOOD CULTURED - At [**2108-6-14**] 02:02 PM --> this morning his temp has
   been high (febrile though receiving CVVH that is not warmed)
   one set from HD line, blue port; other from right femoral tlcl
 ARTERIAL LINE - START [**2108-6-14**] 06:15 PM
 ECHO
 LVEF 70%, increased LA size, inc. PCWP >18, RV with nl size
   and fun.  Concern for diastolic dysfun wth LV thickness near ULN.  No
   vegitations seen on value but recommend TEE for further eval.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-14**] 09:15 AM
   Levofloxacin - [**2108-6-14**] 12:00 PM
   Piperacillin - [**2108-6-15**] 12:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Diltiazem - 5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2108-6-14**] 08:30 PM
   Fentanyl - [**2108-6-14**] 08:30 PM
   Metoprolol - [**2108-6-14**] 08:55 PM
   Adenosine - [**2108-6-14**] 11:40 PM
   Diltiazem - [**2108-6-15**] 12:15 AM
   Pantoprazole (Protonix) - [**2108-6-15**] 01:58 AM
   Dextrose 50% - [**2108-6-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-15**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 76 (71 - 204) bpm
   BP: 107/51(69) {93/43(59) - 150/64(91)} mmHg
   RR: 12 (3 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,167 mL
                                                                  1,174 mL
   PO:
             TF:
   IVF:
                                                                  4,082 mL
                                                                  1,149 mL
   Blood products:
   Total out:
                                                                  4,059 mL
                                                                    921 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    108 mL
                                                                    253 mL
   Respiratory support
   Ventilator mode: A/C
   Vt (Set): 500) mL
   PS : 16 cmH2O
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI: 142
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.31/48/106/23/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 151
   Physical Examination
   Gen:  intubated & sedated
   Lungs: CTA anteriorly, no w/r/r
   CV:  RRR, s1 & s2 nl, no m/r/g
   Abd: +BS, obese, nd, nt, no masses
   Ext: femoral line with clean dressing, warm ext with 2 + PP throughout.
   Labs / Radiology
   155 K/uL
   11.2 g/dL
   63 mg/dL
   4.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   48 mg/dL
   97 mEq/L
   137 mEq/L
   35.2 %
   21.4 K/uL
        [image002.jpg]
                             [**2108-6-14**]  05:00 AM
                             [**2108-6-14**]  10:10 AM
                             [**2108-6-14**]  02:03 PM
                             [**2108-6-14**]  03:46 PM
                             [**2108-6-14**]  08:23 PM
                             [**2108-6-14**]  10:17 PM
                             [**2108-6-14**]  10:32 PM
                             [**2108-6-15**]  04:41 AM
                             [**2108-6-15**]  04:47 AM
                             [**2108-6-15**]  06:10 AM
   WBC
   31.1
   21.4
   Hct
   33.4
   33.4
   35.2
   Plt
   188
   173
   155
   Cr
   7.5
   5.8
   5.1
   4.2
   TCO2
   27
   25
   22
   25
   Glucose
   69
   53
   60
   80
   52
   63
   Other labs: PT / PTT / INR:44.8/41.0/5.0,
   ALT / AST:303/116, Alk Phos / T Bili:388/5.6, Amylase / Lipase:36/13,
   Differential-Neuts:93.0 %, Band:4.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0
   %,
    Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:217 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR - increased interstitial fluid and pleural fluid bilat.
   High suspicion for ARDS picture.
   Left HD has deep sulcus and heart appears shifted over to right
 PTX?
   (supine?)
   Microbiology: Blood cx - GNR 5/5 bottles
   GPC in [**1-25**] blood samples-- identified as Enterococcus in [**11-26**] bottles.
   ECG: HR 200, narrow complex tachycardia, some inverted P waves
   inferiorly.
   ECHO [**2108-6-14**]
   Conclusions
   The left atrium is mildly dilated. Left ventricular wall thickness,
   cavity size, and global systolic function are normal (LVEF 70%). Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). There is no ventricular
   septal defect. Right ventricular chamber size and free wall motion are
   normal. The number of aortic valve leaflets cannot be determined. The
   aortic valve leaflets are mildly thickened. No masses or vegetations
   are seen on the aortic valve. The mitral valve appears structurally
   normal with trivial mitral regurgitation. There is no mitral valve
   prolapse. No mass or vegetation is seen on the mitral valve. There is
   borderline pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Suboptimal image quality; no obvious vegetations seen but
   cannot be excluded on the basis of this study; If clinically indicated,
   a transesophageal echocardiographic examination is recommended.
   If clinically suggested, the absence of a vegetation by 2D
   echocardiography does not exclude endocarditis.
   Assessment and Plan
   48 yo male with Down Syndrome and history of ESRD on HD, SVC on
   coumadin and recent history of choledocholithiasis who presents with
   sepsis secondary to cholangitis.
   #Sepsis: etiology most likely bacterial cholangitis.  Organisms c/w gut
   flora.  Sepsis worsening on current abx coverage (see below)
   -Titrate levofed and vasopressin to keep MAP >65  (only marker to
   follow at this point as no CVP and no UOP)
   -Limit fluid boluses due to ESRD
 continue CVVH
   # Respiratory failure: elective intubation prior to ERCP procedure.
   Patient with poor RSBI this morning.  Likely evolving ARDS picture.
   - Change vent settings compy with ARDs protocol (based on height)
   decrease VT to 450cc, and increase RR to 18.
   - Obtain repeat CXR to eval PTX
   -Current sedation fentanyl/versed gtt
   #Bacteremia: likely secondary to cholangitis.  Concern for coexisting
   line infection vs. gut ischemia/perforation as common source for mixed
   bacteremia
   -GNR and GPC (enterococcus) on Cx.
   - Patient on Levofloxacin, Vancomycin and Zosyn.  Will broaden coverage
   to include VRE (linezolid PO)
   -Obtain RUQ ultrasound and then CT scan of abdomen.
   -Follow up with ERCP re: increasing LFTs and worsening infection in
   face of ERCP 2 days ago with stone left in place and need for further
   intervention.
   -continue zosyn and vanco; will consider extending spectrum for double
   coverage of pseudomonas while awaiting sensitivities.  - -Need to
   replace HD catheter
 placed at OSH will consult IR vs surgery for
   replacement.
   -Consider follow up TEE for endocarditis.
   # SVT
 Patient with several episodes of AVNRT vs. Aflutter requiring
   adenosine and dilt drip overnight for rhythm and HR control.  Patient
   has been in sinus since late last night.  Concern that element of
   volume overload is increasing Right atrial and leading to arrhythmia.
   Also high dose of levophed may be contributing as well.
   -          will turn off dilt now (weaned down to lowest dose
   overnight)
   -           will wean down on levophed as tolerated.
   -          Once off levophed, renal team can adjust CVVH to take off
   50cc/hr.
   #Cholangitis: s/p ERCP 2 days ago --pus drained and stent removed.  New
   stent put in place.  Stone was not removed.
    - notify ERCP team of worsening LFTs and need for repeat
   intervention.
   -   Continue PPI IV BID
   -  d/c atorvastatin
   # ESRD: will continue on CVVH until pt is off pressors and pt is
   extubated; will likely resume regularly scheduled HD; continue to
   renally dose medications.
   - need new  HD catheter today.
   #SVC syndrome: INR is 5.0 today.  hold on restarting anticoagulation
   until INR in therapeutic range and until it is less likely that he will
   need a repeat procedure.
   # Access: HD port
 need to change, R femoral line, R forearm IV
   # Prophylaxis: ISS, holding anticoagulation.
   #Code: reverse to DNR/DNI after extubation
   #Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-6-13**] 04:23 PM
   Dialysis Catheter - [**2108-6-13**] 04:24 PM
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-15 08:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient overnight with worsening hypotension and increases in pressors
   required.
   He has had recurrent SVT overnight requiring Adenosing and Dilt gtt
   required for rate control.  AVNRT and A-flutter seen on ECG.
   Vasopressin started with some capacity to decreaes Levophed achieved.
 EKG - At [**2108-6-14**] 10:18 AM
 ULTRASOUND - At [**2108-6-14**] 01:05 PM
 BLOOD CULTURED - At [**2108-6-14**] 02:02 PM
   one set from HD line, blue port; other from right femoral tlcl
 EKG - At [**2108-6-14**] 03:36 PM
 ARTERIAL LINE - START [**2108-6-14**] 06:15 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-14**] 09:15 AM
   Levofloxacin - [**2108-6-14**] 12:00 PM
   Piperacillin - [**2108-6-15**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Diltiazem - 5 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2108-6-14**] 08:30 PM
   Fentanyl - [**2108-6-14**] 08:30 PM
   Metoprolol - [**2108-6-14**] 08:55 PM
   Adenosine - [**2108-6-14**] 11:40 PM
   Diltiazem - [**2108-6-15**] 12:15 AM
   Pantoprazole (Protonix) - [**2108-6-15**] 01:58 AM
   Dextrose 50% - [**2108-6-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-15**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 71 (71 - 204) bpm
   BP: 109/53(71) {93/43(59) - 150/64(91)} mmHg
   RR: 16 (3 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,167 mL
                                                                  1,347 mL
   PO:
             TF:
   IVF:
                                                                  4,082 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                  4,059 mL
                                                                  1,277 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    108 mL
                                                                     70 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   PS : 16 cmH2O
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI: 142
   SpO2: 100%
   ABG: 7.31/48/106/23/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Decreased oozing from left groin
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   155 K/uL
   63 mg/dL
   4.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   48 mg/dL
   97 mEq/L
   137 mEq/L
   35.2 %
   30.4 K/uL
        [image002.jpg]
                             [**2108-6-14**]  05:00 AM
                             [**2108-6-14**]  10:10 AM
                             [**2108-6-14**]  02:03 PM
                             [**2108-6-14**]  03:46 PM
                             [**2108-6-14**]  08:23 PM
                             [**2108-6-14**]  10:17 PM
                             [**2108-6-14**]  10:32 PM
                             [**2108-6-15**]  04:41 AM
                             [**2108-6-15**]  04:47 AM
                             [**2108-6-15**]  06:10 AM
   WBC
   31.1
   21.4
   30.4
   Hct
   33.4
   33.4
   35.2
   Plt
   188
   173
   155
   Cr
   7.5
   5.8
   5.1
   4.2
   TCO2
   27
   25
   22
   25
   Glucose
   69
   53
   60
   80
   52
   63
   Other labs: PT / PTT / INR:44.8/41.0/5.0, ALT / AST:303/116, Alk Phos /
   T Bili:388/5.6, Amylase / Lipase:36/13, Differential-Neuts:92.0 %,
   Band:5.0 %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Albumin:3.1 g/dL, LDH:217 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.5
   mg/dL
   Microbiology: BC from yesterday positive with GNR's in [**3-26**] bottles and
   GPC's in [**1-25**] bottles with Enterococcus defined.
   ECG: ECHO--Suggestion of increaed LVEDP and has preserved EF but
   signficiant [**Hospital1 **]-atrial enlargement which may pre-dispose to atrial
   arrhythmia
   Assessment and Plan
   48 yo male admitted with biliary sepsis.  He now has evidence of
   continued hypotension which is likely a manifestation of ongoing sepsis
   but now with recurrent atrial arrhythmias has had worsening
   hypotension.  Despite optimal ABX and pressor titration he has had
   worsening hypoxemia despite ongoing CVVH for control of volume status.
   This picture may well be one of significant biliary sepsis with
   polymicrobial infection seen in blood culture results and no clear new
   source has been identified.  The increase in FIO2 requirement likely
   represents some significant evidence of lung injury in this setting.
   This represents clinical worsening despite ERCP intervention and has
   increasing LFT's suggestive of continued obstruction proximal to
   pancreatic duct.
   1)Sepsis-
   -Levohed/Vasopressin
   -Levoflox/Zosyn/Vanco
   -We have concern for persistent biliary source given the findings
   although abdominal source alternatively is possible and perhaps quite
   likely.  For evaluation of alternative sources would consider
Dialysis
   catheter as persistent nidus of infection.
   -Would change dialysis catheter today
   -Would evaluate abdomen for focal collection with CT with contrast and
   pursue RUQ U/S
   -Wean Levophed further if possible with MAP maintained at >60mmHg
   -Add Linezolid now given worsening
   2)Acute Respiratory Failure-
   -He likely has a component of increased LVEDP given atrial enlargement,
   but, in the setting of minimal volume changes has evolved significant
   pulmonary edema and hypoxemia which is strongly suggestive of
   significant acute lung injury.
   -Given further decline and persistent sepsis will have prolonged course
   for treatment.
   -Move to low tidal volume strategy
   --Titrate PEEP up with goal to wean FIO2
   -Keep Ve-10 lpm
   -F/U ABG
   2.5)AVNRT-
   -Dilt gtt needed for rate control
   -Pt with clear predisposition to atrial arrhthmia with stress will
   likely be recurrent
   -Continue dilt gtt.
   3)Chronic Renal Failure-
   -Nephrocaps
   -Continue CVVH in the setting of hemodynamic instability.
   -Catheter change needed
   4)SVC Syndrome
   -Will need continued anticoagulation
   -F/U INR and return to heparin if INR normalizes.
   ICU Care
   Nutrition: Will need to move to po (NGT) feeds towards goal
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-6-13**] 04:23 PM
   Dialysis Catheter - [**2108-6-13**] 04:24 PM
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: In place
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2108-06-16 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ERCP - At [**2108-6-15**] 06:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-15**] 09:30 AM
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Meropenem - [**2108-6-15**] 08:00 PM
   Linezolid - [**2108-6-15**] 10:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2108-6-15**] 04:05 PM
   Fentanyl - [**2108-6-15**] 04:27 PM
   Pantoprazole (Protonix) - [**2108-6-16**] 02:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-16**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 69 (55 - 81) bpm
   BP: 136/58(85) {109/52(71) - 136/59(85)} mmHg
   RR: 0 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
           Total In:
                                                                  6,995 mL
                                                                  1,534 mL
   PO:
           TF:
   IVF:
                                                                  5,284 mL
                                                                    690 mL
   Blood products:
                                                                  1,686 mL
                                                                    845 mL
   Total out:
                                                                  3,306 mL
                                                                  1,578 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,689 mL
                                                                    -44 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.47/39/130/24/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   95 K/uL
   8.9 g/dL
   103 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   96 mEq/L
   133 mEq/L
   27.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2108-6-15**]  06:10 AM
                             [**2108-6-15**]  09:55 AM
                             [**2108-6-15**]  10:06 AM
                             [**2108-6-15**]  02:00 PM
                             [**2108-6-15**]  03:36 PM
                             [**2108-6-15**]  03:54 PM
                             [**2108-6-15**]  08:33 PM
                             [**2108-6-15**]  09:43 PM
                             [**2108-6-16**]  04:01 AM
                             [**2108-6-16**]  04:31 AM
   WBC
   8.7
   Hct
   28.0
   27.4
   Plt
   91
   95
   Cr
   3.2
   3.0
   TCO2
   25
   24
   23
   24
   26
   29
   Glucose
   120
   160
   103
   Other labs: PT / PTT / INR:22.3/57.6/2.1, ALT / AST:163/64, Alk Phos /
   T Bili:275/4.9, Amylase / Lipase:36/13, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:681 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:218
   IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   48 yo male with Down Syndrome and history of ESRD on HD, SVC on
   coumadin and recent history of choledocholithiasis who presents with
   sepsis secondary to cholangitis.
   #Sepsis: etiology most likely bacterial cholangitis.  Organisms c/w gut
   flora.  Sepsis worsening on current abx coverage (see below)
   -Titrate levofed and vasopressin to keep MAP >65  (only marker to
   follow at this point as no CVP and no UOP)
   -Limit fluid boluses due to ESRD
 continue CVVH
   # Respiratory failure: elective intubation prior to ERCP procedure.
   Patient with poor RSBI this morning.  Likely evolving ARDS picture.
   - Change vent settings compy with ARDs protocol (based on height)
   decrease VT to 450cc, and increase RR to 18.
   - Obtain repeat CXR to eval PTX
   -Current sedation fentanyl/versed gtt
   #Bacteremia: likely secondary to cholangitis.  Concern for coexisting
   line infection vs. gut ischemia/perforation as common source for mixed
   bacteremia
   -GNR and GPC (enterococcus) on Cx.
   - Patient on Levofloxacin, Vancomycin and Zosyn.  Will broaden coverage
   to include VRE (linezolid PO)
   -Obtain RUQ ultrasound and then CT scan of abdomen.
   -Follow up with ERCP re: increasing LFTs and worsening infection in
   face of ERCP 2 days ago with stone left in place and need for further
   intervention.
   -continue zosyn and vanco; will consider extending spectrum for double
   coverage of pseudomonas while awaiting sensitivities.  - -Need to
   replace HD catheter
 placed at OSH will consult IR vs surgery for
   replacement.
   -Consider follow up TEE for endocarditis.
   # SVT
 Patient with several episodes of AVNRT vs. Aflutter requiring
   adenosine and dilt drip overnight for rhythm and HR control.  Patient
   has been in sinus since late last night.  Concern that element of
   volume overload is increasing Right atrial and leading to arrhythmia.
   Also high dose of levophed may be contributing as well.
   -          will turn off dilt now (weaned down to lowest dose
   overnight)
   -           will wean down on levophed as tolerated.
   -          Once off levophed, renal team can adjust CVVH to take off
   50cc/hr.
   #Cholangitis: s/p ERCP 2 days ago --pus drained and stent removed.  New
   stent put in place.  Stone was not removed.
    - notify ERCP team of worsening LFTs and need for repeat
   intervention.
   -   Continue PPI IV BID
   -  d/c atorvastatin
   # ESRD: will continue on CVVH until pt is off pressors and pt is
   extubated; will likely resume regularly scheduled HD; continue to
   renally dose medications.
   - need new  HD catheter today.
   #SVC syndrome: INR is 5.0 today.  hold on restarting anticoagulation
   until INR in therapeutic range and until it is less likely that he will
   need a repeat procedure.
   # Access: HD port
 need to change, R femoral line, R forearm IV
   # Prophylaxis: ISS, holding anticoagulation.
   #Code: reverse to DNR/DNI after extubation
   #Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-6-13**] 04:23 PM
   Dialysis Catheter - [**2108-6-13**] 04:24 PM
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-16 14:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 ERCP - At [**2108-6-15**] 06:15 PM
   Remains intubated, mechanically ventilated via ETT.  s/p exchange of
   left IJ dialysis catheter over wire per Interventional Radiology this
   AM.  Tolerated well.  Hemodynamically improved, now off vasopressors.
   Tolerating CVVH.   Evolving coagulopathy (previously on Coumadin),
   received vit K, FFP and 3 U PRBC.  ERCP service requests holding
   Coumadin.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-15**] 09:30 AM
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Meropenem - [**2108-6-16**] 07:27 AM
   Linezolid - [**2108-6-16**] 12:30 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-16**] 02:07 AM
   Fentanyl - [**2108-6-16**] 01:07 PM
   Midazolam (Versed) - [**2108-6-16**] 01:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-6-16**] 02:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 84 (55 - 84) bpm
   BP: 124/60(83) {115/52(76) - 136/60(85)} mmHg
   RR: 18 (0 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
           Total In:
                                                                  6,995 mL
                                                                  2,931 mL
   PO:
           TF:
   IVF:
                                                                  5,284 mL
                                                                  1,475 mL
   Blood products:
                                                                  1,686 mL
                                                                  1,456 mL
   Total out:
                                                                  3,306 mL
                                                                  1,888 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,689 mL
                                                                  1,043 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.49/34/92.[**Numeric Identifier 1176**]/23/2
   Ve: 9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   69 K/uL
   90 mg/dL
   3.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   27 mg/dL
   96 mEq/L
   134 mEq/L
   25.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2108-6-15**]  02:00 PM
                             [**2108-6-15**]  03:36 PM
                             [**2108-6-15**]  03:54 PM
                             [**2108-6-15**]  08:33 PM
                             [**2108-6-15**]  09:43 PM
                             [**2108-6-16**]  04:01 AM
                             [**2108-6-16**]  04:31 AM
                             [**2108-6-16**]  11:40 AM
                             [**2108-6-16**]  12:25 PM
                             [**2108-6-16**]  01:14 PM
   WBC
   8.7
   8.4
   Hct
   28.0
   27.4
   25.0
   Plt
   91
   95
   69
   Cr
   3.2
   3.0
   3.1
   TCO2
   23
   24
   26
   29
   27
   Glucose
   160
   103
   90
   Other labs: PT / PTT / INR:22.3/57.6/2.1, ALT / AST:163/64, Alk Phos /
   T Bili:275/4.9, Amylase / Lipase:36/13, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:681 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:218
   IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Severe sepsis, cholangitis; s/p ERCP.
   RESPIRATORY FAILURE -- Intubated in context of sepsis, +/- ARDS and
   ERCP.  With overall clinical improvement, hope to work towards SBT and
   extubation trial (previously DNI)
   SEPSIS -- GI source, polymicrobial.  Good response to current therapy.
   Continue supportive care and antimicrobials.
   CHOLANGITIS -- cholelithiasis.  Improved following ERCP and removal of
   stones & decompression of purulance..  Continue antimicrobials.
   BACTEREMIA -- Klebsiella (ESBL) --> miropenem; &  enterococcus -->
   linazolid.  Continue antimicrobials.  Likely GI source (cholangitis)
   --> s/p removal of stones.
   HYPOTENSION -- attributed to sepsis +/- hypovolemia.  Improved with
   current therapy.  Now off vasopressors.
   RENAL FAILURE -- tolerating CVVH.  Hope to transition back to
   conventional HD as clinical improvement continues.
   h/o SVC SYNDROME -- hold coumadin as per ERCP service.  need to
   determine timing for resuming chronic anticoagulation.
   DNR
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2108-6-13**] 04:23 PM
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2108-06-17 07:22:00 Physician Resident Progress Note
Chief Complaint: septic shock with bacteremia secondary to cholangitis;
   ESRD;
   24 Hour Events:
 BLOOD CULTURED - At [**2108-6-16**] 08:15 AM
   Dialysis Tunnel Catheter replaced in IR [**2108-6-16**] 10:00am in setting of
   bacteremia
   Continuous oozing from catheter site for > 9 hours--despite constant
   pressure and correction of coagulopathy.  Pt subsequently received 2
   units pRBC.
   Pt still requiring low dose (0.5mcg/kg) levophed for bp.
   CRRT restarted last night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-15**] 09:30 AM
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Meropenem - [**2108-6-16**] 08:00 PM
   Linezolid - [**2108-6-17**] 12:42 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2108-6-16**] 01:07 PM
   Midazolam (Versed) - [**2108-6-16**] 01:08 PM
   Pantoprazole (Protonix) - [**2108-6-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-17**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 56 (56 - 88) bpm
   BP: 104/43(62) {87/42(56) - 175/69(105)} mmHg
   RR: 12 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,014 mL
                                                                  1,030 mL
   PO:
             TF:
   IVF:
                                                                  1,903 mL
                                                                  1,030 mL
   Blood products:
                                                                  2,111 mL
   Total out:
                                                                  1,978 mL
                                                                  1,944 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,036 mL
                                                                   -914 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/45/95.[**Numeric Identifier 96**]/23/0
   Ve: 5.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: sedated, NAD
   CV: distant heart sounds, RRR
   Lungs: distant lung sounds, decreased bs at lateral bases, posterior
   exam deferred, no wheezing/ rhonchi
   Abd: obese, soft, distended, decreased bs, nontender
   Ext: 1+ UE edema, 1+ radial pulses, nonpalpable pedal pulses, no LE
   edema, feet are cool
   Catheter site: dressing c/d/i
   Labs / Radiology
   75 K/uL
   9.9 g/dL
   141 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   29 mg/dL
   99 mEq/L
   133 mEq/L
   29.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2108-6-16**]  11:40 AM
                             [**2108-6-16**]  12:25 PM
                             [**2108-6-16**]  01:14 PM
                             [**2108-6-16**]  03:34 PM
                             [**2108-6-16**]  03:44 PM
                             [**2108-6-16**]  03:46 PM
                             [**2108-6-16**]  06:17 PM
                             [**2108-6-16**]  10:02 PM
                             [**2108-6-16**]  10:19 PM
                             [**2108-6-17**]  04:44 AM
   WBC
   8.4
   8.0
   11.5
   Hct
   25.0
   24.0
   29.9
   29.3
   Plt
   69
   68
   75
   Cr
   3.1
   3.3
   3.4
   TCO2
   27
   29
   29
   27
   Glucose
   90
   121
   141
   Other labs: PT / PTT / INR:13.7/25.6/1.2, ALT / AST:104/46, Alk Phos /
   T Bili:331/7.7, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:178
   IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Microbiology:
   [**2108-6-16**] blood cx: pending
   [**2108-6-14**] blood cx: pan resistant Klebsiella Pneumonia, and Enterococcus
   faecium
   Imaging:
   [**2108-6-17**] CXR: pending
   [**2108-6-15**] CT Abdomen w/ contrast:  No CT evidence of cholangitis or
   cholecystitis.  If high suspicion f/u with U/S.  No intra-abdominal
   abscess.  Bibasilar atelectasis an small bilat pleural effusions.
   Trace amount of fluid around liver and L paracolic gutter.
   Assessment and Plan
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
    .
   # Resp failure -  Stable on volume control ventilation (450cc x 12 bpm
   on PEEP 10); Will attempt to decrease PEEP today in attempt to increase
   afterload and reduce dependence on pressors to maintain bp.
   -lighten sedation, consider attempting PSV trial (15/10) today with
   increased fluid removal and decreased PEEP.
   -improve fluid overload with negative balance by CVVH (goal is
   -100cc/hr); will consider returning to intermittent HD tomorrow if no
   longer dependent on pressors.
   #Septic shock
 cholangitis in the setting of biliary obstruction s/p
   ERCP [**6-15**] (and [**6-13**]); appears to have resolved; intermittent
   hypotension is most likely secondary to bleeding, withdrawal of fluid,
   and increased sedation;  decreased temp most likely due to infusions
   from CVVH. Will continue to monitor temp, WBC, and LFT
s for signs of
   recurrent sepsis.
   -may continue  levo if necessary to maintain MAP > 65
   -volume status mgmt with CVVH/HD per renal; would like to take fluid
   off as sepsis physiology appears to have resolved
   -cont ABX---linezolid for enterococcus and meropenem for Klebsiella
   pneumonia
   .
   #Polymicrobial bacteremia
 likely biliary source; if deteriorates,
   consider TEE to r/o endocarditis (TTE nl)
   -cont. linezolid for enterococcus (c/f VRE given worsening clinical
   status on vanco)
   -cont. meropenem for klebsiella
 susceptibility pending
   - follow up on additional sensitivities that were added in setting of
   wide spread resistance.
   -tunnel HD line changed [**2108-6-16**] @ IR
 not a candidate for other line
   site given h/o SVC syndrome
   - will continue femoral line for now; continue to monitor for si/sx of
   infection; repeat blood cx
   - will evaluate for possible PICC in future (may be required for long
   term IV abx for bacteremia)
   -appreciate ID recs; get official consult today
   #Increased bleeding
 has currently resolved; no longer bleeding from
   catheter site; some mild oozing persists from femoral line site.
   Improved with vit K and FFP, c/f DIC or hemolysis but fibrinogen WNL,
   no schistocytes on smear; will need to be off anticoagulation for some
   period of time after biliary stent placement to be clarified with ERCP
   team
   -x-fuse to maintain Hct > 24%,  plts > 10K
   -follow CBC, coags [**Hospital1 **]
   # ESRD
 volume status has been kept even with citrate-bath CVVH
   -will d/w renal team re: intermittent HD when pt is off pressors
   -tunneled HD cath changed [**2108-6-16**] by IR
   -renally dose meds
   .
   #SVC syndrome
 complicates venous access
   -withholding anticoagulation given coagulopathy and risk of re-clotting
   biliary stents
   -will d/w ERCP re: duration of time w/o AC and when po nutrition can be
   resumed
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-17 09:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2108-6-16**] 08:15 AM
 DIALYSIS CATHETER - STOP [**2108-6-16**] 10:00 AM
 DIALYSIS CATHETER - START [**2108-6-16**] 10:20 AM
   placed in IR
   Remains intubated, mechanically ventilated.  Experienced persistent
   bleeding/oozing from HD catheter site throughout day yesterday, but
   stopped after blood products, dDAVP.
   Tolerating CVVH, net volume loss.
   Increased sedation required.
   Levophed resumed to maintain MAP > 60 mmHg.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-15**] 09:30 AM
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Linezolid - [**2108-6-17**] 12:42 AM
   Meropenem - [**2108-6-17**] 07:56 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2108-6-16**] 01:07 PM
   Midazolam (Versed) - [**2108-6-16**] 01:08 PM
   Pantoprazole (Protonix) - [**2108-6-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-6-17**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.3
C (95.5
   HR: 53 (53 - 88) bpm
   BP: 112/45(66) {87/42(56) - 175/69(105)} mmHg
   RR: 12 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 88.3 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,014 mL
                                                                  1,307 mL
   PO:
             TF:
   IVF:
                                                                  1,903 mL
                                                                  1,307 mL
   Blood products:
                                                                  2,111 mL
   Total out:
                                                                  1,978 mL
                                                                  2,116 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,036 mL
                                                                   -809 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.31/48/95.[**Numeric Identifier 607**]/23/-2
   Ve: 5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Down's syndrome facies
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   75 K/uL
   141 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   29 mg/dL
   99 mEq/L
   133 mEq/L
   29.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2108-6-16**]  12:25 PM
                             [**2108-6-16**]  01:14 PM
                             [**2108-6-16**]  03:34 PM
                             [**2108-6-16**]  03:44 PM
                             [**2108-6-16**]  03:46 PM
                             [**2108-6-16**]  06:17 PM
                             [**2108-6-16**]  10:02 PM
                             [**2108-6-16**]  10:19 PM
                             [**2108-6-17**]  04:44 AM
                             [**2108-6-17**]  07:38 AM
   WBC
   8.4
   8.0
   11.5
   Hct
   25.0
   24.0
   29.9
   29.3
   Plt
   69
   68
   75
   Cr
   3.3
   3.4
   TCO2
   27
   29
   29
   27
   25
   Glucose
   121
   141
   Other labs: PT / PTT / INR:13.7/25.6/1.2, ALT / AST:104/46, Alk Phos /
   T Bili:331/7.7, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.2 g/dL, LDH:178
   IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Severe sepsis, cholangitis (choledocolithiasis) --> s/p ERCP extraction
   of stones.
   Respiratory Failure -- persistent.  main obstacle to extubation is
   volume status --> would desire net negative if tollerated.  Will also
   require reduction of sedatives.  Hope to work towards SBT and
   extubation trial.  (Originally DNR/DNI, but intubated to allow ERCP).
   Cholangitis -- improved clinically, s/p ERCP extraction of stones.
   Continue antimicrobials.
   Bacteremia -- polymicrobial (Klebsiella, Enterococcus).  Highly
   resistent Klebsiella.  Await repeat culture sensitivities.  Continue
   antimicrobials.
   Renal Failure -- continue CVVH.  Hopefully transition to HD.
   Hypotension -- resumed Levophed, likely due to increased sedation and
   increased PEEP.
   SVC syndrome -- hold anticoagulation.  Will need to resume.  Consult
   with IR ERCP to determine timing for resuming anticoagulation.
   Bleeding
 now controlled.  Suspect heparin in line contributed to
   persistent oozing.
   Nutrition -- TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2108-06-18 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Afebrile,  No acute events overnight .  Patient
s last RISD 168 this
   a.m.
   Per GI, it will be ok to start tube feeds today via OG or NG  (needs
   placement) but continue to hold anticoagulation x10days s/p ERCP. New
   note of possible suspected + carbapenem resistance but final CDC tests
   pending, patient to double cover with both  Tigacycline and meropenem
   for now for Klebsiella bacteremia .
   Renal recommended Phosphorus supplementation and Epogen, both started.
 BLOOD CULTURED - At [**2108-6-17**] 11:00 AM
 BLOOD CULTURED - At [**2108-6-17**] 12:00 PM
 INVASIVE VENTILATION - STOP [**2108-6-17**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-15**] 09:30 AM
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Meropenem - [**2108-6-17**] 08:06 PM
   Linezolid - [**2108-6-17**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-18**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 66 (49 - 80) bpm
   BP: 141/57(83) {88/40(55) - 148/61(88)} mmHg
   RR: 12 (9 - 12) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.6 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,630 mL
                                                                    760 mL
   PO:
             TF:
   IVF:
                                                                  3,630 mL
                                                                    760 mL
   Blood products:
   Total out:
                                                                  5,222 mL
                                                                  1,246 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                   -486 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 164
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/44/127/19/-5
   Ve: 5.4 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen: sedated, intubated
   CV: S1/S2 appreciated, no murmurs, auscultation limited [**12-24**] body
   habitus and breadth chest
   Lungs: lung sounds decreased at bases along lateral borders, posterior
   exam limited/deferred, no overt wheezes noted.
   Abd: obese, mild distended, bowel sounds noted x 4 quadrants, nontender
   Ext:  2+ p[edal pulses, no pedal edema noted,  1+ radial pulses,
   pneumoboots in place
   Catheter site: non-eythematous, non-edematous
   Labs / Radiology
   55 K/uL
   9.9 g/dL
   133 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.5 mEq/L
   22 mg/dL
   102 mEq/L
   134 mEq/L
   31.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2108-6-16**]  10:02 PM
                             [**2108-6-16**]  10:19 PM
                             [**2108-6-17**]  04:44 AM
                             [**2108-6-17**]  07:38 AM
                             [**2108-6-17**]  10:55 AM
                             [**2108-6-17**]  11:11 AM
                             [**2108-6-17**]  03:59 PM
                             [**2108-6-17**]  04:14 PM
                             [**2108-6-18**]  01:05 AM
                             [**2108-6-18**]  06:18 AM
   WBC
   11.5
   11.6
   Hct
   29.9
   29.3
   31.3
   Plt
   75
   55
   Cr
   3.4
   3.0
   2.7
   TCO2
   27
   25
   24
   24
   22
   Glucose
   141
   125
   126
   133
   Other labs: PT / PTT / INR:13.7/25.6/1.2, ALT / AST:83/43, Alk Phos / T
   Bili:426/6.2, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:165
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   # Resp failure -  Stable on volume control ventilation (450cc x 12 bpm
   on PEEP  8 today ); Will attempt to decrease PEEP today in attempt to
   increase afterload and reduce dependence on pressors to maintain bp.
   Will increase RR from 12 to 16 to help blow off additional CO2 given
   ABG this a.m. with academia (pH 7.26) .
   -lighten sedation, consider attempting PSV trial tomorrow if RSBI
   improves and after more fluid removed from lungs, will evaluate [**6-19**]
   a.m. CXR and continue with negative balance goals via CVVH (goal is
   -100cc/hr); and advance to HD today .  consider returning to
   intermittent HD tomorrow if no longer dependent on pressors.
   Overnight RISD 168 and worsening edema on CXR today  indicative of
   unfavorable extubation now.  Will con
t adjust wean phentanyl and
   versed and focus on fluid overload reduction today with goal extubation
   deferred for a day or two.
   #Septic shock
 cholangitis in the setting of biliary obstruction s/p
   ERCP [**6-15**] (and [**6-13**]); appears to have resolved; intermittent
   hypotension is most likely secondary to bleeding, withdrawal of fluid,
   and increased sedation;  decreased temp most likely due to infusions
   from CVVH. Will continue to monitor temp, WBC, and LFT
s for signs of
   recurrent sepsis.
   -try to wean off of Levophed today as BPs improving. Goal to maintain
   MAP > 65
   #Polymicrobial bacteremia /ID
 likely biliary source; if
   deteriorates, consider TEE to r/o endocarditis (TTE nl)
   -cont. linezolid for enterococcus (c/f VRE given worsening clinical
   status on vanco)
   -cont. meropenem and tygacycline for klebsiella
 suspected carbapenem
   resistant  organism , but final labs to CDC pending. Will still
   continue meropenem w/ double coverage for now.  Will continue to follow
   daily ID recs.
   - follow up on additional sensitivities that were added in setting of
   wide spread resistance.
   -tunnel HD line changed [**2108-6-16**] @ IR
 not a candidate for other line
   site given h/o SVC syndrome
   - will continue femoral line for now; continue to monitor for si/sx of
   infection; clean on exam today, continue serial repeat blood cx
   monitoring for now
   - will evaluate for possible PICC in future (may be required for long
   term IV abx for bacteremia)
   -appreciate ID recs; consulting/following
   #Increased bleeding
 has currently resolved; no longer bleeding from
   catheter site or femoral line site.  Improved since given  vitamin K
   and FFP, c/f DIC or hemolysis but fibrinogen WNL, no schistocytes on
   smear; per GI will need to be off anticoagulation with Coumadin for 10
   days s/p  ERCP
   -Will continue to use parameters to transfuse if  Hct < 24%,  plts <
   10K,  following  CBC, coags daily
   # ESRD
 volume status has been kept even with citrate-bath CVVH
   -will advance from CVVH to HD, and wean patient off of pressors
   -tunneled HD cath changed [**2108-6-16**] by IR
   -renally dose meds, started phosphorus supplementation and Epogen dose
   to start [**6-18**]
   .
   #SVC syndrome
 complicates venous access
   -withholding anticoagulation given coagulopathy and risk of re-clotting
   biliary stents (x10 days s/p ERCP on [**6-15**])
   #FEN  --will start OG tube feeds today for nutrition, repleting lytes
   PRN
   #Social
 will plan family meeting to establish care goals and
   longer-term dispo (rehab , etc..)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-18 10:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, enterococcal and
   klebsiella  bacteremia, tachycardia, biliary obstruction/infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on small amounts of norepinephrine for hypotension. Slight
   progression in reducing ventilatory support. Afebrile. RSBI=168 this
   AM. To start tube feeds today. Anticoagulation being held per GI/Liver
   service for 10  days post ERCP.
   Antibiotics changed based on ID cultures. Epogen started. CVVH
   continues.
   24 Hour Events:
 BLOOD CULTURED - At [**2108-6-17**] 11:00 AM
 BLOOD CULTURED - At [**2108-6-17**] 12:00 PM
 INVASIVE VENTILATION - STOP [**2108-6-17**] 11:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2108-6-15**] 12:39 PM
   Piperacillin - [**2108-6-15**] 03:57 PM
   Meropenem - [**2108-6-18**] 09:00 AM
   Linezolid - [**2108-6-18**] 09:52 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2.5 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-18**] 02:00 AM
   Other medications:
   Epogen, insulin, thyroxine, atorvostatin, colace, linazolid,
   tigacycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-18**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.5
C (95.9
   HR: 57 (49 - 80) bpm
   BP: 127/48(74) {88/40(55) - 148/61(88)} mmHg
   RR: 0 (0 - 12) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 93.6 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,630 mL
                                                                  1,651 mL
   PO:
             TF:
   IVF:
                                                                  3,630 mL
                                                                  1,651 mL
   Blood products:
   Total out:
                                                                  5,222 mL
                                                                  1,953 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 164
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.26/44/127/19/-5
   Ve: 6.2 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   55 K/uL
   133 mg/dL
   2.7 mg/dL
   19 mEq/L
   4.5 mEq/L
   22 mg/dL
   102 mEq/L
   134 mEq/L
   31.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2108-6-16**]  10:02 PM
                             [**2108-6-16**]  10:19 PM
                             [**2108-6-17**]  04:44 AM
                             [**2108-6-17**]  07:38 AM
                             [**2108-6-17**]  10:55 AM
                             [**2108-6-17**]  11:11 AM
                             [**2108-6-17**]  03:59 PM
                             [**2108-6-17**]  04:14 PM
                             [**2108-6-18**]  01:05 AM
                             [**2108-6-18**]  06:18 AM
   WBC
   11.5
   11.6
   Hct
   29.9
   29.3
   31.3
   Plt
   75
   55
   Cr
   3.4
   3.0
   2.7
   TCO2
   27
   25
   24
   24
   22
   Glucose
   141
   125
   126
   133
   Other labs: PT / PTT / INR:14.3/26.8/1.2, ALT / AST:83/43, Alk Phos / T
   Bili:426/6.2, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:165
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: increased interstitial/alveolar edema compared to 2 days
   ago.
   Assessment and Plan
   1) Respiratory failure
   2) Hypotension
   3) Bacteremia
   4) Acute renal failure
   5) Anemia
   6) Coagulopathy
   7) Metabolic acidosis
   8) SVC syndrome
   Patient has good oxygenation. Respiratory system compliance is normal,
   suggesting that inability to wean may be related to respiratory muscle
   function or sedation. Will continue to wean sedation. Increase
   respiratory frequency to 16 to get PaCO2 to about 35 and pH to above
   7.30. Continue to achieve negative fluid balance with dialysis.
   Metabolic acidosis likely related to ongoing renal failure.
   Antibiotics altered to address resistant organisms.
   Coagulopathy has been corrected.
   Patient requiring small doses of norepi. Would consider restarting
   vasopressin.
   Access remains a problem.
   Hct stable. No need for transfusion now.
   ICU Care
   Nutrition: Try OG tube today for nutrition.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2108-06-19 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Afebrile overnight but patient had refractory hypotension with SBPs as
   low as high 60s with attempted Levophed wean last night. He continues
   on Vasopressin drip currently on low dose Levophed (.03mcg/kg/min)  to
   hold his BPs.  He started tube feeds via OGT and has been tolerating
   well.
   Cortisol stimulation testing WNL, no issues with adrenal axis.
   Cholistin added to regimen yesturday alongside meropenem for Klebsiella
   coverage and Tigecycline discontiued
 BLOOD CULTURED - At [**2108-6-18**] 11:15 AM
 BLOOD CULTURED - At [**2108-6-18**] 11:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:02 PM
   Colistin - [**2108-6-18**] 09:06 PM
   Linezolid - [**2108-6-18**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-19**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 81 (57 - 83) bpm
   BP: 117/59(79) {83/42(56) - 157/65(242)} mmHg
   RR: 0 (0 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,552 mL
                                                                    865 mL
   PO:
             TF:
                                                                     37 mL
                                                                    160 mL
   IVF:
                                                                  3,435 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  4,436 mL
                                                                    975 mL
   Urine:
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.37/32/84.[**Numeric Identifier 1625**]/18/-5
   Ve: 6.8 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General : intubated, sedated, obese body habitus
   HEENT: PERRL bilaterally, sluggish . EOM exam deferred, anicteric
   sclerae
   Lungs: decreased lung sounds bilaterally at bases (R>L), no wheeze,
   posterior exam deferred
   CVS: S1/S2 appreciated, JVP unable to assess due to squat neck/body
   habitus, no murmurs or rubs identified
   Abd: obese, soft , unable to assess pain or tenderness as pt. sedated
   Ext : non-edematous, 2+ pedal and radial pulses bilaterally
   Neuro : deferred, patient sedated, as above PERRL , mild withdrawal to
   painful stimulus
   Labs / Radiology
   61 K/uL
   9.3 g/dL
   141 mg/dL
   2.4 mg/dL
   18 mEq/L
   4.4 mEq/L
   21 mg/dL
   103 mEq/L
   134 mEq/L
   28.7 %
   8.7 K/uL
        [image002.jpg]
   Other Blood Chemistry:
   Cortsol: 16 pre-test  then 1 hr s/p cosyntropin was 23.6
   Blood cultures pending from [**6-18**] and [**6-19**]
   CXR [**6-19**]: rotated view, question of RUL plugging and partial collapse
                             [**2108-6-17**]  07:38 AM
                             [**2108-6-17**]  10:55 AM
                             [**2108-6-17**]  11:11 AM
                             [**2108-6-17**]  03:59 PM
                             [**2108-6-17**]  04:14 PM
                             [**2108-6-18**]  01:05 AM
                             [**2108-6-18**]  06:18 AM
                             [**2108-6-18**]  12:30 PM
                             [**2108-6-19**]  05:11 AM
                             [**2108-6-19**]  05:30 AM
   WBC
   11.6
   8.7
   Hct
   31.3
   28.7
   Plt
   55
   61
   Cr
   3.0
   2.7
   2.4
   TCO2
   25
   24
   24
   22
   21
   19
   Glucose
   125
   126
   133
   141
   Other labs: PT / PTT / INR:14.0/27.4/1.2, ALT / AST:69/44, Alk Phos / T
   Bili:476/4.9, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:196
   IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   # Resp failure -  Stable on volume control ventilation (450cc x 12 bpm
   on PEEP  5  today ); Decreased PEEP yesturday  in attempt to increase
   afterload and reduce dependence on pressors to maintain bp.  Increased
   RR from 12 to 16 to help blow off additional CO2 given ABG this [**6-18**]
   with academia (pH 7.26)  and CO2 44, improved today with ABG showing pH
   7.37 and CO2 32 today .
   -lighten sedation, consider attempting PSV trial tomorrow if RSBI
   improves and after more fluid removed from lungs, will re-evaluate  CXR
   to r/o RUL collapse as initial film poor quality, rotated.
   -Continue with negative balance goals via CVVH (goal is -30cc/hr); and
   advance to HD as hemodynamics and hypotension stabilize and once he is
   fully weaned off of pressors. Still showing some dependence on pressors
   and failed overnight wean, maintain on Vasopressin drip and Levophed
   now and will continue to wean slowly .
   RISD  [**6-18**] was 168 and worsening edema on CXR,  indicative of
   unfavorable extubation, will plan to calculate new RSBI later today
   once sedation weaned, currently down to 25mcg/hr  Fentanyl and mg/hr
   Versed. Extubation goal : likely re-attempt  tomorrow once off of
   sedation and BP stabilized off of pressors
   #Hypotension- has been refractory issue as patient been dependent on
   pressors, wean failed last night. Likely evidence that there is
   lingering hypotensive effect of shock and bacteremia which must be
   further cleared with correct Abx. . Additional obstacles include the
   sedative drugs and fluid overload secondary to ESRD which are further
   complicating effort to maintain a healthy SBP and keep MAP >65.
   -try to wean off of Levophed today again  w/goal to maintain MAP > 65,
   SBP above 100
   #Septic shock
 etiology is cholangitis in the setting of biliary
   obstruction s/p ERCP [**6-15**] (and [**6-13**]); appears to have resolved;
   intermittent hypotension was initially attributed to bleeding,
   withdrawal of fluid, and increased sedation;  decreased temp most
   likely due to infusions from CVVH.
   -Will continue to monitor temp, WBC, and LFT
s for signs of recurrent
   sepsis , serial daily blood cultures
   #ID/ Polymicrobial bacteremia
 likely biliary source given
   identification Klebsiella and enterococcus ; if deteriorates, consider
   TEE to r/o endocarditis (TTE nl)
   -will cont. linezolid for enterococcus
   -cont. meropenem and cholistin  for klebsiella coverage,  Tigecycline
   discontinued [**6-18**]
 suspected carbapenem resistant  organism , but
   final labs to CDC pending
should be available [**Date range (1) 3823**]. Will continue
   to follow daily ID recs.
   - follow up on additional sensitivities/CDC reports that were added in
   setting of wide spread resistance.
   -tunnel HD line changed [**2108-6-16**] @ IR
exploring if  a candidate for
   other line site given h/o SVC syndrome, IR contact[**Name (NI) **] today , will await
   recs /procedure plans
   - will continue femoral line for now until IR places new PICC access
   later today,  continue to monitor for si/sx of infection; clean on exam
   today, continue serial repeat blood cx monitoring for now as above
   - will arrange IR procedure under fluoroscopy for PICC placement and
   alternate access, with plan to  d/c curent femoral line.  PICC needed
   for presumed long term IV abx for bacteremia
   -appreciate ID recs; consulting/following
   #Increased bleeding
 has currently resolved; no longer bleeding from
   catheter site or femoral line site.  Improved since given  vitamin K
   and FFP, c/f DIC or hemolysis but fibrinogen WNL, no schistocytes on
   smear; per GI will need to be off anticoagulation with Coumadin for 10
   days s/p  ERCP
   -Will continue to use parameters to transfuse if  Hct < 24%,  plts <
   10K,  following  CBC, coags daily, type and screen renewed [**6-19**]
   #Endocrine
 continue daily levothyroxine for hypotyroidism, PO to IV
   dose switched from 100 to 50mcg daily
   # ESRD
 volume status has been kept even with citrate-bath CVVH
   -will advance from CVVH to HD as soon as patient off of pressors  (CVVH
   goal -30cc/hr fluid off for now)
   -tunneled HD cath changed [**2108-6-16**] by IR, lines being re-evaluted today
   by IR
   -renally dose meds, started phosphorus supplementation and Epogen dose
   to start [**6-18**], Colistin has been adjusted for renal dosing
   .
   #SVC syndrome
 complicates venous access
   -withholding anticoagulation given coagulopathy and risk of re-clotting
   biliary stents (x10 days s/p ERCP on [**6-15**])
   #Access  - Right femoral and Left Subclavian lines in place, attempting
   to start new IJ with IR today and d/c femoral if possible
   #FEN  --started OG tube feeds with Nutren at 30cc/hr rate last night
   for nutrition, tolerating well,  repleting lytes PRN
   #Social
 will plan family meeting to establish care goals and
   longer-term disposition (rehab , etc..)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-6-18**] 08:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-19 12:15:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory failure, renal failure,
   cholangitis, metabolic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Vasopressin started. Patient still requiring norepi intermittently; now
   off. Tube feeds started. NG aspirates are guaiac positive as is stool.
   Colistin started for resistant klebsiella. Blood cultures were still
   positive several days ago.
   Remains on vent. PEEP = 5, ventilation increased to compensate for
   metabolic acidosis.
   Volume status negative about 1L for the day. CVVH continues.
   Sedation being reduced.
   24 Hour Events:
 BLOOD CULTURED - At [**2108-6-18**] 11:15 AM
 BLOOD CULTURED - At [**2108-6-18**] 11:45 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-19**] 07:13 AM
   Colistin - [**2108-6-19**] 08:00 AM
   Linezolid - [**2108-6-19**] 11:02 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-19**] 02:00 AM
   Other medications:
   Insulin, nephrocap, ASA, atorvostatin, synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-19**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 73 (64 - 85) bpm
   BP: 83/46(59) {76/42(54) - 158/70(242)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,552 mL
                                                                  1,791 mL
   PO:
             TF:
                                                                     37 mL
                                                                    227 mL
   IVF:
                                                                  3,435 mL
                                                                  1,564 mL
   Blood products:
   Total out:
                                                                  4,436 mL
                                                                  1,889 mL
   Urine:
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.37/36/94.[**Numeric Identifier 128**]/18/-3
   Ve: 6.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, Protuberant tongue
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Heart sounds soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Clear on left. Rhonchi on right, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   61 K/uL
   141 mg/dL
   2.4 mg/dL
   18 mEq/L
   4.4 mEq/L
   21 mg/dL
   103 mEq/L
   134 mEq/L
   28.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2108-6-17**]  10:55 AM
                             [**2108-6-17**]  11:11 AM
                             [**2108-6-17**]  03:59 PM
                             [**2108-6-17**]  04:14 PM
                             [**2108-6-18**]  01:05 AM
                             [**2108-6-18**]  06:18 AM
                             [**2108-6-18**]  12:30 PM
                             [**2108-6-19**]  05:11 AM
                             [**2108-6-19**]  05:30 AM
                             [**2108-6-19**]  10:49 AM
   WBC
   11.6
   8.7
   Hct
   31.3
   28.7
   Plt
   55
   61
   Cr
   3.0
   2.7
   2.4
   TCO2
   24
   24
   22
   21
   19
   22
   Glucose
   125
   126
   133
   141
   Other labs: PT / PTT / INR:14.0/27.4/1.2, ALT / AST:69/44, Alk Phos / T
   Bili:476/4.9, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:196
   IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   1) Respiratory failure
   2) Renal failure
   3) Cholangitis
   4) Hypotension
   5) Bacteremia
   6) Anemia
   7) GI Bleed
   Patient does not take many spontaneous breaths on PSV. Will continue to
   reduce sedation and see if he can be switched to PSV. Oxygenation
   remains stable. CXR this morning was very rotated; question of RUL
   atelectasis. Repeat CXR.
   Continues on CVVH. Metabolic acidosis persists. Electrolytes
   acceptable. Still volume overloaded from admission.
   Blood pressure improvd and intermittently off norepi. Periodically
   drops BP for unclear reasons. Concern about intermittent bacteremia.
   Sedation may be playing a role as well. Continue to wean sedations.
   Maintain vasopressin.
   Now on colistin and meropenem for gram negative bacteremia. Concern
   about femoral line. Will explore alternative access; patient has SVC
   syndrome and hx of thrombosed veins in upper body in past. Attempt to
   obtain vascuilar imaging records from [**Hospital3 961**].
   Hct stable, but now has evidence of upper GI bleed vs blood from upper
   airway. Monitor Hct. Anti-coagulation being held post ERCP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: Does not meet criteria for daily wake up and RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 1426**], MD

2108-06-20 06:23:00 Physician Resident Progress Note
Chief Complaint:
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   24 Hour Events:
   Overnight patient was afebrile.  He continued to have refractory
   hypotension after Levophed was discontinued last night, Vasopressin
   drip still on, will titrate.  He was given several 250cc boluses
   overnight for a total of about 1L to maintian BP which he responded to
   well.
   The patient had a collapsed RUL region confirmed by repeat CXR
   yesturday and underwent PEEP recruitment , chest PT ordered . Will
   re-evaluate pending CXR this a.m.  Status
post recruitment  the
   patient
s ABG  pCO2 decreased from 36 to 30, pH from 7.37 to 7.41 and
   pO2 94 to 49.
   Patient
s a-line pulled by accident last night , IR placed a left
   Midline yesturday .  Right femoral line still in place. Femoral line
   needs replacement today.
   Patient continues on Meropenem and Colistin for Klebsiella bacteremia
   and Linezolid for enterococcus.
 MIDLINE Left  - START [**2108-6-19**] 04:00 PM
   placed in IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-19**] 08:18 PM
   Colistin - [**2108-6-19**] 10:01 PM
   Linezolid - [**2108-6-19**] 11:17 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-20**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-20**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 69 (57 - 90) bpm
   BP: 100/49(67) {76/43(54) - 164/74(107)} mmHg
   RR: 16 (0 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.8 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,049 mL
                                                                    729 mL
   PO:
             TF:
                                                                    392 mL
                                                                    191 mL
   IVF:
                                                                  3,658 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  3,106 mL
                                                                    694 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    943 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.42/29/80.[**Numeric Identifier 248**]/19/-3
   Ve: 7.5 L/min
   PaO2 / FiO2: 200
   Physical Examination:
   General : sedated, obese body habitus , intubated, partially extruded,
   large tongue noted, OGT in place
   HEENT: PERRL bilaterally, sluggish . EOM exam deferred, anicteric
   sclerae
   Lungs: decreased lung sounds bilaterally at bases (R>L), no wheeze,
   posterior exam deferred
   CVS: S1/S2 appreciated, JVP unable to assess due to squat neck/body
   habitus, no murmurs or rubs identified
   Abd: obese, soft , unable to assess pain or tenderness as pt. sedated
   Ext : non-edematous, 2+ pedal and radial pulses bilaterally, right
   femoral line in tact, no bleeding or discharge or erythema noted and
   left PICC line in place without any bleeding or discharge, prior left
   a-line site bandaged, no active bleeding . Left subcavian line in tact,
   non-erythematous, no bleeding.
   Neuro : deferred, patient sedated, as above PERRL , mild withdrawal to
   painful stimulus
   Labs / Radiology
   51 K/uL
   9.1 g/dL
   173 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.4 mEq/L
   22 mg/dL
   106 mEq/L
   135 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
   Last 2 Blood Cx,  negative to date from [**6-18**], [**6-19**]
   5am [**6-20**] : WBC 4.4, Hct 25.4, Hgb 8.1
      Na 133, K 4.1, 103 Cl, Bicarb 21, BUN 20, Cr 2.3, Glucose 140, Ca
   8.4, Mg 2.2, Phos 2.2
                             [**2108-6-19**]  05:11 AM
                             [**2108-6-19**]  05:30 AM
                             [**2108-6-19**]  10:29 AM
                             [**2108-6-19**]  10:49 AM
                             [**2108-6-19**]  05:07 PM
                             [**2108-6-19**]  05:15 PM
                             [**2108-6-19**]  05:40 PM
                             [**2108-6-19**]  07:08 PM
                             [**2108-6-19**]  11:26 PM
                             [**2108-6-19**]  11:27 PM
   WBC
   8.7
   7.7
   Hct
   28.7
   27.1
   Plt
   61
   51
   Cr
   2.4
   2.6
   TCO2
   19
   22
   20
   19
   19
   Glucose
   141
   171
   127
   173
   Other labs: PT / PTT / INR:14.0/27.4/1.2, ALT / AST:69/44, Alk Phos / T
   Bili:476/4.9, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:196
   IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan:
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   # Resp failure -  Stable on volume control ventilation (450cc x 12 bpm
   on PEEP  7  today ); Increased  PEEP from 5 yesturday  in attempt to
   increase alveolar recruitment w/new RUL collapse.  Increased RR from 12
   to 16 to help blow off additional CO2  given recent  acidemic trend
   which has resolved.
   -lightened sedation, currently down to 25mcg/hr  Fentanyl and 2mg/hr
   Versed. Will consider attempting PSV trial tonight or tomorrow if can
   stabilize BP and RSBI more favorable. Will get f/up  CXR to this a.m.
   to review status RUL collapse s/p PEEP recruitment last night.
   -Given responses to boluses and improved hypotension with fluid the
   patient
s preload may be low and will adjust I/O goal to be  even today
   . Will discuss I/O goals with renal team and CVVH plan holding for now
   until left subclavian line cleared.  Will continue to try to  wean off
   of pressors as still on Vasopressin drip and continue to lower sedation
   with ultimate goal of attempt at extubation pending hypotension
   stabilizes.
   #Hypotension- has been refractory issue as patient been dependent on
   pressors, weaned off Levophed last night but still on Vasopressin.
   Likely evidence that there is lingering hypotensive effect of shock and
   bacteremia which must be further cleared. Last 2 blood cultures
   pending, will continue current Abx regimen.  Additional obstacles
   include the sedative drugs and some evidence of pre-load dependence
   last night as BPs responded well to boluses IVF, indicating
   intravascular fluid demand despite some fluid overload, third spacing
   secondary to ESRD which are further complicating effort to maintain a
   healthy SBP > 100 and keep MAP >65.
   #Septic shock
 etiology is cholangitis in the setting of biliary
   obstruction s/p ERCP [**6-15**] (and [**6-13**]); appears to have resolved;
   intermittent hypotension was initially attributed to bleeding,
   withdrawal of fluid, and increased sedation. His initial decreased temp
   most likely due to infusions from CVVH.
   -Will continue to monitor temp (although not fully dependable parameter
   as patient on CVVH and bear-hugger) , WBC, and LFT
s for signs of
   recurrent sepsis , serial daily blood cultures
   #ID/ Polymicrobial bacteremia
 likely biliary source given
   identification Klebsiella and enterococcus ; if deteriorates, consider
   TEE to r/o endocarditis (TTE nl) -will cont. linezolid for enterococcus
   -cont. meropenem and cholistin  for klebsiella coverage,
 suspected
   carbapenem resistant  organism , but final labs to CDC pending
should
   be available [**6-20**]. Will continue to follow daily ID recs.
   - follow up on additional sensitivities/CDC reports that were added in
   setting of wide spread resistance.
   -tunnel HD line changed [**2108-6-16**] @ IR
exploring if  a candidate for
   other line site given h/o SVC syndrome, IR contact[**Name (NI) **] today , will await
   recs /procedure plans
   - will continue femoral line for now and switch in new line today,  IR
   placed new midline access  in left arm yesturday,  continue to monitor
   for si/sx of infection; clean on exam today, continue serial repeat
   blood cx monitoring for now as above.
   Patient needs new a-line placed in left arm today as well.
   -  Mid-line at left arm will be needed for presumed long term IV abx
   for bacteremia
   -appreciate ID recs; consulting/following
   #Increased bleeding
 has currently resolved; no longer bleeding from
   catheter site or femoral line site.  Improved since given  vitamin K
   and FFP, c/f DIC or hemolysis but fibrinogen WNL, no schistocytes on
   smear; per GI will need to be off anticoagulation with Coumadin for 10
   days s/p  ERCP
   -Will continue to use parameters to transfuse if  Hct < 24%,  plts <
   10K,  following  CBC, coags daily, type and screen renewed [**6-19**]
   #Endocrine
 continue daily levothyroxine for hypotyroidism, PO to IV
   dose switched from 100 to 50mcg daily
   # ESRD
 volume status plan is to keep even for now, will discuss
   w/renal.  CVVH is clogged this a.m. at left subclavian site per R.N.
   Will discuss need for alteplase fibrinolysis for possible de-clotting
   with renal team.
   -tunneled HD cath changed [**2108-6-16**] by IR, lines to be re-evaluated today
   s/p
   -renally dose meds, continue phosphorus supplementation and Epogen
   #SVC syndrome
 complicates venous access
   -withholding anticoagulation given coagulopathy and risk of re-clotting
   biliary stents (x10 days s/p ERCP on [**6-15**])
   -plan to re-start Coumadin on [**6-25**]. Given new question of left
   subclavian line clot will discuss acute need for fibrinolyis w/renal
   #Access  - Right femoral needs replacement , Left Subclavian line in
   place, IR placed new Left arm PICC that goes mid-line, left a-line
   pulled last night, needs replacement today
   #FEN  --started OG tube feeds with Nutren at 30cc/hr rate on [**6-18**]  for
   nutrition, tolerating well, will continue, and plan to  replete lytes
   PRN
   #Social
 will plan family meeting today to establish care goals, code
   status DNR now , will discuss long term disposition given multiple
   failing organs, will review possible comfort care options with family
   vs. ongoing ICU options
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-6-19**] 06:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Arterial Line - [**2108-6-14**] 06:15 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Midline - [**2108-6-19**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-20 09:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, chronic renal failure,
   hypotension, gram negative bacteremia, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypotension was a problem during the night. Received several boluses of
   fluid, and ultimately norepi was stopped. Continues on vasopressin.
   Recruitment maneuvers performed with ventilator for RUL atelectasis.
   PEEP increased to 7.
   WBC down. LFT's trending down. Blood cultures for past several days are
   negative to date.
   24 Hour Events:
 MIDLINE - START [**2108-6-19**] 04:00 PM
   placed in IR
 ARTERIAL LINE - STOP [**2108-6-20**] 05:45 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2108-6-19**] 11:17 PM
   Meropenem - [**2108-6-20**] 08:14 AM
   Colistin - [**2108-6-20**] 08:29 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-20**] 02:24 AM
   Other medications:
   Colace, protonix, epo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-20**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 69 (57 - 90) bpm
   BP: 118/57(71) {87/45(56) - 118/57(71)} mmHg
   RR: 9 (0 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.2 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  4,050 mL
                                                                  1,578 mL
   PO:
             TF:
                                                                    392 mL
                                                                    262 mL
   IVF:
                                                                  3,658 mL
                                                                  1,256 mL
   Blood products:
   Total out:
                                                                  3,106 mL
                                                                    837 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    944 mL
                                                                    741 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.42/29/80.[**Numeric Identifier 248**]/21/-3
   Ve: 6.9 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI No(t) Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Diminished
   breath sounds bilaterally anteriorally and laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   42 K/uL
   140 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   133 mEq/L
   25.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2108-6-19**]  05:30 AM
                             [**2108-6-19**]  10:29 AM
                             [**2108-6-19**]  10:49 AM
                             [**2108-6-19**]  05:07 PM
                             [**2108-6-19**]  05:15 PM
                             [**2108-6-19**]  05:40 PM
                             [**2108-6-19**]  07:08 PM
                             [**2108-6-19**]  11:26 PM
                             [**2108-6-19**]  11:27 PM
                             [**2108-6-20**]  05:22 AM
   WBC
   7.7
   4.4
   Hct
   27.1
   25.4
   Plt
   51
   42
   Cr
   2.6
   2.3
   TCO2
   19
   22
   20
   19
   19
   Glucose
   171
   127
   173
   140
   Other labs: PT / PTT / INR:14.8/27.8/1.3, ALT / AST:45/36, Alk Phos / T
   Bili:482/3.0, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:149
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: Improved aeration RUL, probable atelectasis or effusions
   at bases bilaterally.
   Assessment and Plan
   1) Respiratory failure
   2) Chronic renal failure
   3) Gram negative bacteremia
   4) Cholangitis
   5) Anemia
   6) Thrombocytopenia
   RUL atelectasis improved with chest PT and increased PEEP. Oxygenation
   adequate on FIO2=0.4. Maintain PEEP at 7 for today.
   Hypotension improved with fluids overnight. Continues on vasopressin.
   It remains difficult to assess central filling pressures; patient is
   still total body volume overloaded but acting in a pre-load dependent
   manner, perhaps due to low SVR from ongoing sepsis. Will keep fluids
   even to slightly negative today.
   Increasing difficulty removing fluid via CVVH due to access pressure;
   concern about thrombosis of dialysis catheter. Patient had bleeding
   issues earlier in the admission when he was coagulopathic. Risk of
   using thrombolytic in the presence of thrombocytopenia. Given severe
   general access issues, I would favor trying a thrombolytic in the line.
   Dose of colistin increased. Most recent blood cultures negative to
   date. WBC down. Will need
   Hct at 25. No obvious bleeding now. No need for transfusion now.
   Platelet count down slightly.
   Patient's likelihood of surviving this is low (sepsis for one week and
   significant co-morbidities). Will have family meeting today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-6-19**] 06:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Midline - [**2108-6-19**] 04:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP: not a candidate for awakening and RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 50 minutes

2108-06-21 07:13:00 Physician Resident Progress Note
Chief Complaint:
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   24 Hour Events:
   Patient given IVF overnight to sustain BPs after he dropped into 80s
   SBP early in the evening.  Given 250cc x2 total and BPs sustained
   throughout night in the 95-100s/40-60s ranges .
   Patient given tPA flushes x2 at HD catheter left subclavicular line for
   suspected clot. Both lines flushing but neither able to be aspirated
   still per R.N.
   Pt. had small amount of red blood at ETT last night which resolved
   (10-20cc)
   lightened sedation, but patient appeared uncomfortable so increased to
   75mcg/hr  Fentanyl and 3mg/hr Versed
   Sister [**Name (NI) 789**] asked to stop CVVH attempts last night and stated she did
   not want anymore dialysis.  Family meeting yesturday and will follow-up
   on ultimate comfort care decision today. Replacement femoral and
   a-lines were not placed yesturday given change in management goals at
   this juncture. Will await family
s input today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-20**] 07:40 PM
   Colistin - [**2108-6-20**] 08:45 PM
   Linezolid - [**2108-6-21**] 12:42 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-21**] 02:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-21**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (62 - 72) bpm
   BP: 95/53(63) {87/47(56) - 124/64(78)} mmHg
   RR: 0 (0 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.2 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,898 mL
                                                                    670 mL
   PO:
             TF:
                                                                    722 mL
                                                                    212 mL
   IVF:
                                                                  3,116 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,138 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,760 mL
                                                                    670 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 6.7 L/min
   Physical Examination:
   General : sedated, obese body habitus , intubated, partially extruded,
   large tongue noted, OGT in place
   HEENT: PERRL bilaterally, sluggish . EOM exam deferred, anicteric
   sclerae
   Lungs: decreased lung sounds bilaterally at bases (R>L), no wheeze,
   posterior exam deferred
   CVS: S1/S2 appreciated, JVP unable to assess due to squat neck/body
   habitus, no murmurs or rubs identified
   Abd: obese, soft , unable to assess pain or tenderness as pt. sedated
   Ext : non-edematous, 2+ pedal and radial pulses bilaterally, right
   femoral line in tact, no bleeding or discharge or erythema noted and
   left midline in place without any bleeding or discharge, prior left
   a-line site bandaged, no active bleeding . Left subcavian line in tact,
   non-erythematous, no bleeding.
   Neuro : deferred, patient sedated, as above PERRL , mild withdrawal to
   painful stimulus at UE
   Labs / Radiology
   31 K/uL
   7.6 g/dL
   118 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   28 mg/dL
   105 mEq/L
   134 mEq/L
   23.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2108-6-19**]  10:29 AM
                             [**2108-6-19**]  10:49 AM
                             [**2108-6-19**]  05:07 PM
                             [**2108-6-19**]  05:15 PM
                             [**2108-6-19**]  05:40 PM
                             [**2108-6-19**]  07:08 PM
                             [**2108-6-19**]  11:26 PM
                             [**2108-6-19**]  11:27 PM
                             [**2108-6-20**]  05:22 AM
                             [**2108-6-21**]  04:23 AM
   WBC
   7.7
   4.4
   5.0
   Hct
   27.1
   25.4
   23.2
   Plt
   51
   42
   31
   Cr
   2.6
   2.3
   3.4
   TCO2
   22
   20
   19
   19
   Glucose
   171
   127
   173
   140
   118
   Other labs: PT / PTT / INR:14.8/29.9/1.3, ALT / AST:39/37, Alk Phos / T
   Bili:466/2.1, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:153
   IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan:
   48 y/o M h/o Down syndrome, ESRD on HD, SVC syndrome on coumadin a/w
   septic shock and respiratory failure in the setting of biliary
   obstruction and cholangitis.
   # Resp failure -  Stable on volume control ventilation (450cc x 12 bpm
   on PEEP  7  today ); Increased  PEEP from 5 earlier in the week  in an
   attempt to increase alveolar recruitment given new RUL collapse.
   -lightened sedation, but patient appeared uncomfortable so increased to
   75mcg/hr  Fentanyl and 3mg/hr Versed. At this juncture will keep
   patient comfortable on A/C vent as BP stabilizes. Will get f/up CXR to
   this a.m. to review status RUL collapse earlier in wk.
   -Given responses to boluses and improved hypotension with fluid the
   patient
s preload may be low and will continue to keep an even I/O goal
   today . Will discuss family
s wishes for comfort care with renal team
   and convey that they wish to withdraw CVVH/HD efforts
   #Hypotension- has been refractory issue as patient been dependent on
   pressors, weaned off Levophed but still remains on  Vasopressin drip
   and requiring IVF boluses daily to maintain BPs . There is likely some
   lingering hypotensive effect of sepsis given highly resistant
   bacteremia which must be further cleared. Last 2 blood cultures
   pending, will continue current Abx regimen.  Patient also has some
   extravascular fluid overload, third spacing secondary to ESRD which are
   further complicating effort to maintain a healthy SBP. Goal SBP > 100
   and keep MAP >65 for now.
   #Septic shock
 Etiology is cholangitis in the setting of biliary
   obstruction s/p ERCP [**6-15**] (and [**6-13**]); acute phase appears to have
   resolved; intermittent hypotension was initially attributed to
   bleeding, withdrawal of fluid, and increased sedation. His initial
   decreased temp most likely due to infusions from CVVH. Tmax 98.4 now
   off of CVVH.
   -Will continue to monitor temp , WBC, and LFT
s for signs of recurrent
   sepsis , serial daily blood cultures
   #ID/ Polymicrobial bacteremia
 likely biliary source given
   identification Klebsiella and enterococcus ; if deteriorates, consider
   TEE to r/o endocarditis (TTE nl) -will cont. linezolid for enterococcus
   -cont. meropenem and colistin  for klebsiella coverage,  suspected
   carbapenem resistant  organism , but final lab results w/ CDC pending.
   Will continue to follow daily ID recs, and communicate new shift toward
   comfort care goals.
   -tunnel HD line changed [**2108-6-16**] @ IR
exploring if  a candidate for
   other line site given h/o SVC syndrome, IR contact[**Name (NI) **] today , will await
   recs /procedure plans
   - will continue femoral line for now and hold off  switching new lines
   until discuss with family later.   IR placed new midline access  in
   left arm yesturday,  continue to monitor for si/sx of infection; clean
   on exam today, continue serial repeat blood cx monitoring for now as
   above.
   -  Mid-line at left arm may be needed for presumed long term IV abx for
   bacteremia
   #Increased bleeding
 small amount of ETT blood last night (20cc) ; no
   longer bleeding, no bleeding from catheter sites or femoral line site.
   Will consider  vitamin K and FFP if rebleeds. Per GI, patient  will
   need to be off anticoagulation with Coumadin for 10 days s/p  ERCP
   which was [**6-15**]
   -Will continue to use parameters to transfuse if  Hct < 24%,  plts <
   10K,  following  CBC, coags daily, type and screen renewed [**6-19**]
   (pending comfort care decision, otherwise will stop transfusions)
   #Endocrine
 continue daily levothyroxine for hypothyroidism, PO to IV
   dose switched from 100 to 50mcg daily
   # ESRD
 discontinuing  CVVH /HD ,  renally dose meds, continue
   phosphorus supplementation and Epogen
   #SVC syndrome
 complicates venous access
   -withholding anticoagulation given coagulopathy and risk of re-clotting
   biliary stents (x10 days s/p ERCP on [**6-15**])
   -plan to re-start Coumadin on [**6-25**]. Given new question of left
   subclavian line clot will discuss additional tPA , likely not needed
   anymore given care goal shift to d/c dialysis
   #Access  - Right femoral , Left Subclavian line in place, IR placed new
   Left arm mid-line
   #FEN  --started OG tube feeds with Nutren at 30cc/hr rate on [**6-18**]  for
   nutrition, tolerating well, will continue, and plan to  replete lytes
   PRN
   #Social
 will plan family meeting today to establish care goals, code
   status DNR now , will discuss long term disposition given multiple
   failing organs, will review possible comfort care decisions with
   family.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-6-21**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Midline - [**2108-6-19**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-06-21 09:22:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48M with esrd, downs syndrome, recurrent line infections, presents with
   cholangitis with vre and klebsiella likely resistant to carbapenems:
   24 Hour Events:
   family meeting yesterday: no more invasive procedures; moving towards
   comfort measures, to make decision about possible withdrawal of care.
   tdc not working despite several attempts with tpa without success; no
   cvvh.
   iv fluid boluses overnight to maintain map > 55.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2108-6-21**] 12:42 AM
   Meropenem - [**2108-6-21**] 08:01 AM
   Colistin - [**2108-6-21**] 08:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 1.2 units/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-21**] 02:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-6-21**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 63 (62 - 72) bpm
   BP: 96/47(59) {87/47(56) - 124/64(78)} mmHg
   RR: 16 (0 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.2 kg (admission): 89.8 kg
   Height: 60 Inch
             Total In:
                                                                  3,898 mL
                                                                  1,037 mL
   PO:
             TF:
                                                                    722 mL
                                                                    272 mL
   IVF:
                                                                  3,116 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  1,138 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,760 mL
                                                                  1,037 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   right side)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   31 K/uL
   118 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   28 mg/dL
   105 mEq/L
   134 mEq/L
   23.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2108-6-19**]  10:29 AM
                             [**2108-6-19**]  10:49 AM
                             [**2108-6-19**]  05:07 PM
                             [**2108-6-19**]  05:15 PM
                             [**2108-6-19**]  05:40 PM
                             [**2108-6-19**]  07:08 PM
                             [**2108-6-19**]  11:26 PM
                             [**2108-6-19**]  11:27 PM
                             [**2108-6-20**]  05:22 AM
                             [**2108-6-21**]  04:23 AM
   WBC
   7.7
   4.4
   5.0
   Hct
   27.1
   25.4
   23.2
   Plt
   51
   42
   31
   Cr
   2.6
   2.3
   3.4
   TCO2
   22
   20
   19
   19
   Glucose
   171
   127
   173
   140
   118
   Other labs: PT / PTT / INR:14.8/29.9/1.3, ALT / AST:39/37, Alk Phos / T
   Bili:466/2.1, Amylase / Lipase:51/26, Differential-Neuts:95.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:2.0 %, D-dimer:2642 ng/mL,
   Fibrinogen:636 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:153
   IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   48M with downs, esrd, svc syndromes, presented with cholangitis and
   bacteremia, likely line infection, with vre and likely
   carbopenem-resistant klebsiella, and persistent sepsis. Given patient's
   very poor prognosis for good recovery and poor baseline, especially
   regarding long-term access for hemodialysis, patients family is moving
   towards comfort measures only. At this point, patient is not on cvvh,
   and patient's hcp does not want to escalate care with any additional
   procedures or toxic medications:
   -family meeting today regariding goals of care
   -no additional invasive procedure per family wishes
   -for now will continue ventilator support; antibiotics; continue
   vasopressin gtt; intermittent fluid boluses
   Family has decided to have the patient extubated and given comfort
   measures only. ETT removed at 12:15 with family at patient bedside.
   Continue confort measures.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-6-21**] 03:42 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2108-6-13**] 11:00 PM
   Dialysis Catheter - [**2108-6-16**] 10:20 AM
   Midline - [**2108-6-19**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill